US06869954B2
5) Preparation of 2-benzyl-4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 91.8%).

reactant | 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)F)C | C20H19FN2O4S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 2-benzyl-4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 91.8% | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)F)C | C28H33FN4O3
